Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Imipramine
 
Attending: ___.
 
Chief Complaint:
Hemoptysis
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ year-old non-smoking gentleman with a PMH of 
CAD s/p CABG (SVG x3 to PDA, OM and LIMA to LAD) in ___ on 
aspirin and Plavix, HTN, HFpEF, and complete heart block s/p 
PPM, now admitted after an episode of hemoptysis. Patient was in 
his USOH until this morning, when he suddenly developed 
hemopysis at 7:00 am. He cough up blood three times in 
succession, with total of about ___ tablespoons of dark blood. 
This has never happened before. He had no lightheadedness before 
or after this episode.  
He denies fevers, chills, night sweats, abd pain, N/V/D, CP, 
SOB. No recent illness, no recent travel, weight loss. No 
contact with incarcerated people. No change in stool; he 
specifically denies any dark, tarry stool or BRBPR. Of note, PPD 
has been negative in the past.  
In the ED, initial VS were: 98.5 78 124/61 18 100% on RA. Exam 
notable for +systolic aortic murmur, lungs clear, NT abd. Labs 
were notable for creatinine of 1.4 and hct of 40. EKG: V-paced 
at 70, c/w prior. CXR noting left lobe scarring, no acute 
process. Guaiac was negative. He was started on NS @ 150ml/hr. 
CT chest with contrast showed old rib fractures and evidence of 
pulmonary HTN, but no PE or other findings to explain his 
hemoptysis. He was admitted for likely bronch in the morning 
with IP aware. VS on transfer: 98.2 71 144/53 18 100%.  
On arrival to the floor, patient was comfortable. He reports no 
further episodes  

 
Past Medical History:
1. CARDIAC RISK FACTORS: Dyslipidemia, Hypertension  
2. CARDIAC HISTORY:  
-CABG: ___ (SV x3 to PDA, OM and LIMA to LAD)
-PERCUTANEOUS CORONARY INTERVENTIONS:  
-PACING/ICD:  
3. OTHER PAST MEDICAL HISTORY: 
CAD s/p CABG in ___
Severe major depression w/ history of catatonic features
Hypothyroidism after treatment for Grave's disease
HL
OSA 
 
Social History:
___
Family History:
+ fam hx of CAD, HTN, Prostate CA.
 
Physical Exam:
ADMISSION:

VS: 98.4 159/94 78 18 95%RA  
GENERAL: well appearing, comfortable  
HEENT: NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, clear 
oropharynx  
NECK: supple, no LAD, JVP at mid-neck at 15 degrees  
LUNGS: CTA bilat, no r/rh/wh, good air movement, resp unlabored, 
no accessory muscle use  
HEART: III/VI crescendo-decrescendo at ___ with radiation to 
LLSB and apex, +S3, RRR, nl S1, prominent S2  
ABDOMEN: normal bowel sounds, soft, non-tender, non-distended, 
no rebound or guarding, no masses  
EXTREMITIES: no edema, 2+ pulses radial and dp  
NEURO: awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout  

DISCHARGE:

VS: 98.4 159/94 78 18 95%RA  
GENERAL: well appearing, comfortable  
HEENT: NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, punctate 
hemorrhage in posterior oropharynx. Significant amount of dried 
blood in posterior left nares and some small areas of fresh 
blood without significant active bleeding. 
NECK: supple, no LAD, JVP flat
LUNGS: CTA bilat, no r/rh/wh, good air movement, resp unlabored, 
no accessory muscle use  
HEART: III/VI crescendo-decrescendo at ___ with radiation to 
LLSB and apex, +S3, RRR, nl S1, prominent S2  
ABDOMEN: normal bowel sounds, soft, non-tender, non-distended, 
no rebound or guarding, no masses  
EXTREMITIES: no edema, 2+ pulses radial and dp  
NEURO: awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout  

 
Pertinent Results:
LABS:

___ 02:40PM BLOOD WBC-7.0 RBC-4.36* Hgb-12.6* Hct-40.0 
MCV-92 MCH-29.0 MCHC-31.5 RDW-13.7 Plt ___
___ 01:57AM BLOOD Hgb-11.5* Hct-35.3*
___ 07:40AM BLOOD WBC-7.1 RBC-4.15* Hgb-12.0* Hct-37.7* 
MCV-91 MCH-28.9 MCHC-31.8 RDW-13.6 Plt ___
___ 07:40AM BLOOD ___ PTT-29.6 ___
___ 02:40PM BLOOD Glucose-69* UreaN-29* Creat-1.4* Na-140 
K-4.8 Cl-102 HCO3-30 AnGap-13
___ 07:40AM BLOOD Glucose-96 UreaN-23* Creat-1.1 Na-142 
K-4.5 Cl-107 HCO3-30 AnGap-10
___ 07:40AM BLOOD Calcium-9.0 Phos-3.1 Mg-2.1
___ 02:50PM BLOOD Lactate-1.4

IMAGING:

CXR ___:
IMPRESSION:  Scarring in the left lung at the level of the 
extensive left rib cage deformity.  Overall, findings are stable 
and no acute findings to account for patient's complaint 
hemoptysis. 

CHEST CT ___:
IMPRESSION:  
1) No findings to account for the patient's hemoptysis including 
no evidence 
of endobronchial lesion. 
2) Dilated pulmonary arteries suggestive of pulmonary arterial 
hypertension. 
3) Small hiatal hernia. 
4) Multiple, displaced, chronic left sided rib fractures with 
adjacent 
atelectasis.   
5) Moderate aortic valvular calcification. 
6) Marked atherosclerotic disease involving the ostia of the 
major mesenteric 
arteries within the upper abdomen. 

 
Brief Hospital Course:
Mr. ___ is a ___ year-old non-smoking gentleman with a PMH of 
CAD s/p CABG (SVG x3 to PDA, OM and LIMA to LAD) in ___ on 
aspirin and Plavix, HTN, HFpEF, complete heart block s/p PPM, 
and h/o several episodes of mild epistaxis since starting Plavix 
admitted for evaluation of single episode of presumed 
hemoptysis, found to have evidence of recent epistaxis.
  
# Epistaxis: Patient was initially admitted for evaluation of 
presumed hemoptysis. He had a single episode of 
coughing/spitting up ~3 tablespoons of blood. Upon furthur 
history, he did note several episodes of epistaxis in the past 
year since starting Plavix. He also has an exam consistent with 
aortic stenosis, which can predispose to mucosal AVMs and 
bleeding. Chest CT was unrevealing. Patient noted that the night 
prior to episode of "hemoptysis" that he had the sensation of 
blood dripping in the back of his throat. Physical exam revealed 
a significant amount of dried blood in the left nares, as well 
as small amount of fresh blood with no evidence of active 
bleeding. He had no furthur episodes of hemoptysis or epistaxis 
during his admission. His history and physical are most 
consistent with epistaxis causing blood to accumulate in the 
oropharynx, leading to patient coughing/spitting a small amount 
of blood. Normal chest CT also makes true hemoptysis less 
likely. He was discharged in stable condition with presumptive 
diagnosis of epistaxis, NOT hemoptysis.

# CAD: s/p CABG in ___. Stable, without any chest pain at 
present. EKG v-paced indeterminate for ischemic changes. 
continued aspirin, plavix, and rosuvastatin given HD stability 
and stable HCT. 
  
# HFpEF: Likely secondary to ongoing HTN. Last TTE in ___ 
showed LV EF 60% with mild symmetric LVH. Patient's exam 
significant for crescendo-decrescendo murmur radiating to b/l 
carotids, suggestive of aortic stenosis; however, this has yet 
to be documented by TTE. He did not have any signs or symptoms 
of heart failure during this admission. 

# Hypothyroidism: Well-controlled. Continued levothyroxine.  

# Depression: With history of catatonic features. continued 
venlafaxine and ritalin (fractionated per our forumlary)  

# OSA: Has not used CPAP for several years. Declined CPAP.  

# HTN: SBPs were consistently in the 170s during admission. 
Patient states that this is typical for him and he has not been 
on any antihypertensive meds. We wanted to start an 
antihypertensive regimen, but patient declined. He was made 
aware of the risks of untreated hypertension, including 
worsening CHF, stroke, and death. He acknowledged these risks 
and opted to discuss this furthur in close followup with his 
PCP.

==============================================================
TRANSITIONAL ISSUES
#HTN - Untreated with SBPs in the 170s. He was made aware of the 
risks of untreated hypertension, including worsening CHF, 
stroke, and death. He acknowledged these risks and opted to 
discuss this furthur in close followup with his PCP.

#? aortic stenosis on exam: Last TTE was in ___ showing only 
diastolic dysfunction. Patient may benefit from repeat ECHO to 
assess for aortic stenosis. Currently asymptomatic, without 
chest pain, syncope, or DOE.
 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Clopidogrel 75 mg PO DAILY 
2. Levothyroxine Sodium 125 mcg PO DAILY 
3. Rosuvastatin Calcium 20 mg PO HS 
4. Furosemide 20 mg PO 1X/WEEK (___) 
5. Methylphenidate SR 10 mg PO DAILY 
6. Venlafaxine XR 187.5 mg PO DAILY 
7. Aspirin EC 81 mg PO DAILY 

 
Discharge Medications:
1. Aspirin EC 81 mg PO DAILY 
2. Clopidogrel 75 mg PO DAILY 
3. Furosemide 20 mg PO 1X/WEEK (___) 
4. Levothyroxine Sodium 125 mcg PO DAILY 
5. Rosuvastatin Calcium 20 mg PO HS 
6. Venlafaxine XR 187.5 mg PO DAILY 
7. Methylphenidate SR 10 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Epistaxis

Secondary:
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ for evaluation of coughing blood. You 
had a CAT scan of your lungs, which was normal. You had dried 
blood in your nose. It is likely that you had a nose bleed, 
which bled into your mouth, causing you to spit out blood. You 
should follow up with the interventional pulmonologists.
Also, you had very high blood pressure during this admission. We 
recommended that you start medication to lower your blood 
pressure, but you declined. We explained that having 
uncontrolled blood pressure can lead to heart disease, stroke, 
and death. You stated that you understood these risks and will 
followup with your PCP to decided whether or not to start blood 
pressure medications.

It was a pleasure taking part in your care and we wish you a 
speedy recovery!
 
Followup Instructions:
___